US06361808B1
A production strain of Aspergillus sojae (DS 8351) is cultured. Exopeptidase activity is expressed as Leucine aminopeptidase units (Leu-A): 1 Leu-A is the amount of enzyme needed to produce 1 μmol p-nitroaniline per minute at pH 7.2 and 20° C. from L-leucine-p-nitroaniline. The test is performed as follows: Leucine paranitroanilid (SIGMA) is dissolved in water at a concentration of 9 mM. 1 ml of the solution is mixed with 1.5 ml 0.1M phosphate buffer pH 7.2. At t=0, 0.5 ml enzyme is introduced and left for reaction at 20° C. Fifteen minutes later, 1 ml 1N HCl is added to stop the reaction. A blank is run with 1N HCl being introduced at t=0. Optical density is determined for the blank (ODblank) and for the assay (ODassay) at 400 nm. Activity is calculated as follows: A = ( OD blank - OD assay ) 9.8 × 15 × 4 0.5 ⁢   ⁢ Leu-A/ml

reactant | Leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | L-leucine-p-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1.N[C@@H](CC(C)C)C(=O)O
product | p-nitroaniline | 1 μmol | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
